US07544697B2
Ethyl 5-ethyl-1-propyl-1H-pyrazole-3-carboxylate (13.0 g, 62 mmol) in a 4:1 mixture of concentrated ammonium hydroxide/methanol (50 mL) was heated at 125° C. for 18 hours in a pressure vessel. After cooling to ambient temperature, the contents of the vessel were poured into a flask and a precipitate formed immediately. The precipitate was isolated by filtration to yield 5.02 g of analytically pure 5-ethyl-1-propyl-1H-pyrazole-3-carboxamide as off-white crystals, mp 105-106° C. MS (APCI) m/z 182.1 (M+H)+; Anal. calcd for C9H15N3O: C, 59.64; H, 8.34; N, 23.19. Found: C, 59.59; H, 8.54; N, 23.39. An additional 0.50 g of product was obtained in the second crop from the filtrate.

reactant | Ethyl 5-ethyl-1-propyl-1H-pyrazole-3-carboxylate | 62 mmol, 13.0 g | C(C)C1=CC(=NN1CCC)C(=O)OCC | C11H18N2O2
reactant | ammonium hydroxide methanol | 50 mL | [OH-].[NH4+].CO
product | 5-ethyl-1-propyl-1H-pyrazole-3-carboxamide | C(C)C1=CC(=NN1CCC)C(=O)N | C9H15N3O
